US05424329
1,1-Dimethylethyl 3-bromo-1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate
A suspension of 3-bromo-1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylic acid (43.0 g, 119 mmol) in 500 mL of toluene is heated in an oil bath at 85°-90° C. while N,N-dimethylformamide di-tert-butyl acetal (115 mL, 98 g, 480 mmol) is added dropwise. Heating is continued for 2 hours, and the cooled reaction mixture is filtered and diluted with fresh toluene. The solution is washed with brine, 5% aqueous sodium bicarbonate solution, and brine again, then dried (anhydrous sodium sulfate) and evaporated. Recrystallization of the residue from hexane yields 36.6 g (74%) of product; mp 97°-99° C.

reactant | 3-bromo-1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylic acid | 119 mmol, 43.0 g | BrC1=C(N(C2=CC=C(C=C12)OCC1=CC=CC=C1)C)C(=O)O | C17H14BrNO3
reactant | N,N-dimethylformamide di-tert-butyl acetal | 480 mmol, 115 mL, 98 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1-Dimethylethyl 3-bromo-1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate | 36.6 g, 74% | BrC1=C(N(C2=CC=C(C=C12)OCC1=CC=CC=C1)C)C(=O)OC(C)(C)C | C21H22BrNO3
